US08242104B2
Alternatively, 2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene hydrochloride can be prepared whereby 8-Bromo-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene (2.1 g, 5.4 mmol), 3,6-dihydro-2H-pyridine-1-N-Boc-4-boronic acid pinacol ester (2.59 g, 8.3 mmol) and potassium carbonate (1.92 g, 13.9 mmol) were mixed with DMF (13 mL) and purged with argon. PdCl2dppf.DCM (310 mg, 0.42 mmol) was added, purging repeated and the mixture heated to 80° C. for 18 h. After cooling the reaction mixture was filtered through Celite®, washing with ethyl acetate, and the filtrate concentrated in vacuo. The residue was partitioned between ethyl acetate and water, the organic layer separated, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0 to 2% methanol in ethyl acetate) to give 4-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (2.56 g, 96%). LCMS RT=4.79, [M+H]+=477. 1H NMR 400 MHz (CDCl3) δ: 8.45 (1H, d, J=8.46 Hz), 7.89 (1H, s), 7.73 (1H, s), 7.19 (1H, dd, J=8.37, 1.80 Hz), 7.04 (1H, d, J=1.87 Hz), 6.15 (1H, s), 6.04-5.96 (1H, m), 4.51-4.43 (4H, m), 4.09 (2H, d, J=3.68 Hz), 3.64 (2H, t, J=5.64 Hz), 2.52 (2H, s), 1.59 (6H, d, J=6.63 Hz), 1.49 (9H, s)

reactant | 2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene hydrochloride | Cl.C(C)(C)N1N=CN=C1C1=CN2CCOC3=C(C2=N1)C=CC(=C3)C3CCNCC3
reactant | 8-Bromo-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | 5.4 mmol, 2.1 g | BrC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1 | C16H16BrN5O
reactant | 3,6-dihydro-2H-pyridine-1-N-Boc-4-boronic acid pinacol ester | 8.3 mmol, 2.59 g | B1(OC(C(O1)(C)C)(C)C)C2=CCN(CC2)C(=O)OC(C)(C)C | C16H28BNO4
reactant | potassium carbonate | 13.9 mmol, 1.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | DCM | 0.42 mmol, 310 mg | C(Cl)Cl | CH2Cl2
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | 4-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 2.56 g, 96% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1 | C26H32N6O3
